US06730792B2
2-Methoxyphenylboronic acid (2 eq.) and pyrazole (1 eq.) are coupled with copper(II) acetate catalysis as described in Tetrahedron Lett. 39:2941-44, 1998 and the product is demethylated by treatment with boron tribromide in dichloromethane (see, for example, Synth. Commun. 27(20):3581-90, 1997) to yield 2-(pyrazol-1-yl)phenol. This phenolic product is reacted with (2S)-glycidyl 3-nitrobenzenesulfonate substantially as described for Epoxide 1 to give the title epoxide.

reactant | 2-Methoxyphenylboronic acid | 2 eq. | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | pyrazole | 1 eq. | N1N=CC=C1 | C3H4N2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper(II) acetate | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 2-(pyrazol-1-yl)phenol | N1(N=CC=C1)C1=C(C=CC=C1)O | C9H8N2O
